Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx "cardiomyopathy" presenting to ___ ___ with chest pain.

USOH until several days ago, when he developed intermittent 
sharp, non-radiating, non-pleuritic, retrosternal chest pain. 
These episodes would last ___ mins and would resolve 
spontaneously; not a/w exertion. He also had associated 
diaphoresis, dyspnea. Of note, he follows with Cardiology at 
___ he does not take his prescribed medications because they 
made him feel dizzy and unwell. Last saw them years ago and 
cannot recall MD's name.

He also notes recent history of worsening exertional dyspnea 
with progressively less activity. He can walk several blocks 
without dyspnea; however, walking himself up a flight of stairs 
causes dyspnea. He also notes ___ pillow orthopnea and PND. He 
may have had some pedal edema but cannot be sure.

Due to worsening of his dyspnea and chest pain, he came to the 
___ ___ at the urging of his sister.

In the ___:
- Initial VS:  T 98.1 HR 88 BP 146/99 RR 22 Pox 100% RA 
- Labs: Chem7 WNL (BUN/Cr ___, CBC wnl except macrocytosis, 
Tn < 0.01, D dimer 154 (not elevated). 
- CXR: "No acute cardiopulmonary process. Somewhat rounded 
retrocardiac opacity is nonspecific, but may relate to a hiatal 
hernia."
- ECG: read as "NSR, HR 83, LA, NI, TWI III and aVF, no STE."
- Interventions: ASA 324.
- Consults: none.
He was admitted to the Cardiology service for evaluation and 
treatment of his worsening chest pain and dyspnea. 

On the floor, patient reports he is largely symptom free but is 
concerned about the symptoms.

He also endorses a strong history of alcohol use, drinking ___ 
beers and 1 pint of whiskey per day for the last ___ years. He 
gets tremulous and nauseous when he tries to quit. He has never 
been to an ICU, had seizures, or had hallucinosis or DT that he 
is aware of.

 
Past Medical History:
- history of "enlarged heart"
- alcohol abuse disorder
- diverticulosis
 
Social History:
___
Family History:
brother d ___ liver problems
father d ___ MI
uncles with MIs ___
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
VS 98.6PO 148 / 97L Sitting 81 18 98 RA
Genl: well appearing, obese, NAD
HEENT: PERRLA, no icterus, MMM
Neck: no visible JVD, limited by habitus
Cor: RRR NMRG. PMI in normal position in line, ___ intercostal 
sp.
Pulm: no incr wob. lungs CTAB.
Abd: soft, ntnd
Neuro: AOx3. no tremulousness
MSK: ___ without edema. significant varicosity of RLE.
Skin: no obvious lesions or rashes.

PHYSICAL EXAM ON DISCHARGE:
============================
Tele:  NSR ___ except for 3 episodes to 130-150s with 
ambulations, self-resolving.
VS: T98.1 (tmax 98.6 ) BP 127/60 (120-140/40-90) Negative for 
orthostatic hypotension HR 68 (60-80) RR 18  O2 sat 95-98% RA
Weight: 106<-107.3 
I/O: 300/150
GENERAL: well appearing, obese, NAD
HEENT: PERRLA, no icterus, MMM
Neck: JVP at clavicle
Cor: RRR NMRG. PMI in normal position in line, ___ intercostal 
sp.
Pulm: no incr wob. lungs CTAB.
Abd: soft, ntnd
Neuro: AOx3. no tremulousness
MSK: ___ without edema. significant varicosity of RLE.
Skin: no obvious lesions or rashes.
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 11:35AM   WBC-8.6 RBC-4.16* HGB-14.1 HCT-41.7 MCV-100* 
MCH-33.9* MCHC-33.8 RDW-12.9 RDWSD-47.7*
___ 11:35AM   GLUCOSE-80 UREA N-15 CREAT-1.0 SODIUM-137 
POTASSIUM-4.8 CHLORIDE-99 TOTAL CO2-23 ANION GAP-20
___ 11:35AM   proBNP-101
___ 11:35AM   cTropnT-<0.01
___ 05:05PM   cTropnT-<0.01
___ 11:56AM   D-DIMER-154
___ 08:55PM   CK-MB-2 cTropnT-<0.01
___ 08:55PM   CK(CPK)-128
___ 08:55PM   ___ PTT-29.5 ___
___ 10:55PM   %HbA1c-5.2 eAG-103

LABS ON DISCHARGE:
===================
___ 07:00AM BLOOD WBC-9.0 RBC-4.42* Hgb-14.9 Hct-44.8 
MCV-101* MCH-33.7* MCHC-33.3 RDW-12.6 RDWSD-47.6* Plt ___
___ 07:00AM BLOOD Glucose-93 UreaN-13 Creat-0.9 Na-136 
K-4.2 Cl-99 HCO3-25 AnGap-16
___ 07:00AM BLOOD Calcium-9.4 Phos-2.8 Mg-2.1

PERTINENT STUDIES:
==================
EKG ___: (no comparison available): normal rate, SR, borderline 
LAD, LVH by voltage criteria, ST elevation in V2-V3 c/w early 
repol, notching of QRS complex in V2 of uncertain significance, 
TWI III/aVF.

NUCLEAR STRESS TEST ___:
INTERPRETATION: This ___ year old man with h/o asthma, tobacco 
and 
ETOH abuse was referred to the lab for evaluation of chest 
discomfort. 
He exercised for 7.5 minutes on ___ protocol and stopped for 
fatigue. 
The estimated peak MET capacity is 8.7, which represents an 
average 
exercise tolerance for his age. No chest, arm, neck or back 
discomfort 
reported by the patient throughout the test. In the presence of 
LVH 
voltage criteria at baseline, no significant ST segment changes 
were 
noticed throughout the test. Rhythm was sinus with rare isolated 
VPBs. 
Baseline mild HTN 148/100 supine and 138/98 standing with 
appropriate 
hemodynamic response to exercise and recovery. 
IMPRESSION : No anginal symptoms or ischemic EKG changes to the 
achieved 
workload. Average functional capacity. Baseline mild HTN. 
Nuclear report 
sent separately. 

Nuclear study:
Findings:
-The image quality is adequate but limited due to soft tissue 
attenuation.    
-Left ventricular cavity size is increased.   
-Resting and stress perfusion images reveal a fixed, mild 
reduction in photon counts involving the entire inferior wall 
and the basal inferoseptum.    
-Gated images reveal moderate global hypokinesis.  
-The calculated left ventricular ejection fraction is 36% with 
an EDV of 187 ml. 
Impression:
1. Probably normal myocardial perfusion.  Fixed inferior wall 
defect most 
consistent with attenuation. 
2. Increased left ventricular cavity size.  Moderate systolic 
dysfunction with global hypokinesis.  

CXR ___:
No acute cardiopulmonary process.  Somewhat rounded retrocardiac 
opacity is nonspecific, but may relate to a hiatal hernia. 

MICRO:
======
NONE

 
Brief Hospital Course:
___ w/ PMHx of dilated cardiomyopathy, EtOH abuse, noncompliant 
with home medications presenting with non-pleuritic, 
non-radiating, retrosternal CP consistent with atypical angina. 
Exercise MIBI without concerns for ischemia but consistent with 
dilated cardiomyopathy. Patient did not want to stay for formal 
echo. Also noted to have intermittent supraventricular 
tachycardia with rates in 150s that self-terminated. Patient 
also incidentally found to have possible hiatal hernia on CXR, 
raising suspicion for GI source of pain and prompting trial of 
pantoprazole 40mg daily. He was also started on metop tart 25mg 
BID and 5mg of lisinopril for his dilated cardiomyopathy. 
Lastly, patient complaining of r. shoulder pain and weakness 
with exam notable for positive "empty can" sign highly 
suggestive of rotator cuff injury related to his job. Patient HD 
stable and without CP at time of discharge. 

TRANSITIONAL ISSUES:
- New meds: pantoprazole 40mg daily, metoprolol tart 25mg BID, 
and lisinopril 5mg.
- Assess response to PPI; further eval and mgmt. of hiatal as 
clinically indicated. 
- Please obtain chem7 at PCP visit given recent addition of 
lisinopril
- Recommend obtaining formal echocardiogram.
- Recommend orthopedic f/u for rotator cuff injury
- Continue to monitor and counsel regarding alcohol use
-CODE STATUS: full
-Name of health care proxy: ___ 
-Phone number: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth every twelve 
hours Disp #*60 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical chest pain
congestive heart failure
hiatal hernia
rotator cuff injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital with chest 
pain. Fortunately, all of your tests indicate that you did not 
have a heart attack. Based on your chest X-ray, it is possible 
that part of your stomach has herniated through your diaphragm. 
One medication that can be very helpful is an acid reducer. This 
is first line therapy, but if your symptoms don't improve, you 
will need to consider surgery. 

Based on your imaging, it appears that your heart has reduced 
pumping strength, a condition known as congestive heart failure. 
We highly recommend that your get an echocardiogram performed as 
an outpatient and have arranged an appointment to see a 
cardiologist. We have started you on two medications, metoprolol 
and lisinopril to help your heart. We also recommend that you 
reduce alcohol consumption. 

Lastly, you had questions regarding pain and weakness in your 
shoulder. This is likely due to an injury to your rotator cuff. 
You will need to see an orthopedic specialist. 

Please continue all medications as prescribed in this discharge 
summary and follow up with all appointments. If you develop any 
of the danger signs listed below, please call your doctor or go 
to the hospital immediately. 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___